US07754742B2
4-(aminomethyl)phenylmethanol hydrochloride
Add 4N hydrogen chloride in 1,4-dioxane (25 mL) to a solution of (4-hydroxymethyl-benzyl)-carbamic acid tert-butyl ester (3.0 g, 12.6 mmol) in 1,4-dioxane (25 mL). Heat the reaction mixture at 50° C. for 1 hr. Filter the solid and wash it with ethyl acetate to give the title compound (2.1 g, 12.1 mmol).

reactant | hydrogen chloride | 4N | Cl | ClH
reactant | (4-hydroxymethyl-benzyl)-carbamic acid tert-butyl ester | 12.6 mmol, 3.0 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CO)=O | C13H19NO3
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 4-(aminomethyl)phenylmethanol hydrochloride | 12.1 mmol, 2.1 g | Cl.NCC1=CC=C(C=C1)CO | InChI=1S/C8H11NO.ClH/c9-5-7-1-3-8(6-10)4-2-7;/h1-4,10H,5-6,9H2;1H
